US06335451B1
c) 1-[3-(4-Bromobenzyl)-5-chloro-2-phenyl-3H-imidazol-4-yl]ethanone
3.7 g of 1-[3-(4-bromobenzyl)-5-chloro-2-phenyl-3H-imidazol-4-yl]ethanol is dissolved in 20 ml of acetic acid and slowly treated at 15° C. with a solution of 15.6 g of (NH4)2Ce(NO3)6 in 30 ml of water. The mixture is stirred at 10° C. for 30 minutes, then allowed to warm to RT. It is diluted with 200 ml of water and adjusted to pH=5 using NaHCO3, and the product is filtered off with suction. Chromatography once each with DIP and MTB yields 2.0 g of a colorless oil.

reactant | 1-[3-(4-bromobenzyl)-5-chloro-2-phenyl-3H-imidazol-4-yl]ethanol | 3.7 g | BrC1=CC=C(CN2C(=NC(=C2C(C)O)Cl)C2=CC=CC=C2)C=C1 | C18H16BrClN2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | water | 30 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | 1-[3-(4-Bromobenzyl)-5-chloro-2-phenyl-3H-imidazol-4-yl]ethanone | 2.0 g | BrC1=CC=C(CN2C(=NC(=C2C(C)=O)Cl)C2=CC=CC=C2)C=C1 | C18H14BrClN2O
